US04703049
To a solution of 1.20 g (4.81 mmol) of 6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carbohydrazide and 0.8 ml of triethylamine in 30 ml of dry dichloromethane under stirring at room temperature was added dropwise 1.7 ml of trifluoroacetic anhydride. The mixture was heated at 45° C. for 30 minutes, then cooled and 3 times washed with water, dried over MgSO4, filtered and the solvent evaporated. The product was crystallized from ethyl acetate to give 1.50 g of 6-ethyl-7-methoxy-5-methyl-2-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)imidazo[1,2-a]pyrimidine (82% yield) as a fluffy white solid melting at 210°-211° C.

reactant | 6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carbohydrazide | 4.81 mmol, 1.20 g | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(=O)NN)OC | C11H15N5O2
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-ethyl-7-methoxy-5-methyl-2-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)imidazo[1,2-a]pyrimidine | 1.50 g, 82% yield | C(C)C=1C(=NC=2N(C1C)C=C(N2)C=2OC(=NN2)C(F)(F)F)OC | C13H12F3N5O2
